US07829707B2
1-Butyl-4-thioxo-1,3,4,5-tetrahydro-2H-pyrrolo[3,2-d]pyrimidin-2-one
Ethoxycarbonyl isothiocyanate (0.13 ml, 1.1 mmol) was added to 3-(butylamino)-1H-pyrrole-2-carboxylic acid ethyl ester (0.23 g, 1.1 mmol) in toluene (5 mL) and the mixture was heated at 90° C. for 1 h. The precipitate was filtered off and washed with hexane. The intermediate product was treated with potassium hydroxide (0.55 g, 9.9 mmol) in water (9 mL), and heated to reflux for 15 h. After cooling to ambient temperature, the pH was adjusted to pH 5 with 12 M HCl. The resultant precipitate was collected by filtration and washed with water. The crude product was purified using preparative HPLC to give the title compound (16 mg, 6%) as a solid.

reactant | Ethoxycarbonyl isothiocyanate | 1.1 mmol, 0.13 ml | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 3-(butylamino)-1H-pyrrole-2-carboxylic acid ethyl ester | 1.1 mmol, 0.23 g | C(C)OC(=O)C=1NC=CC1NCCCC | C11H18N2O2
reactant | potassium hydroxide | 9.9 mmol, 0.55 g | [OH-].[K+]
reactant | HCl | 12 M | Cl | ClH
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 9 mL | O | H2O
product | 1-Butyl-4-thioxo-1,3,4,5-tetrahydro-2H-pyrrolo[3,2-d]pyrimidin-2-one | 16 mg, 6% | C(CCC)N1C(NC(C2=C1C=CN2)=S)=O | C10H13N3OS
